US05686486
2,2-Dimethyl-5,6,7,8,9,10-hexahydro-[4H]-cycloocta-1,3-dioxin-4-one (Formula VV-2) Refer to Chart VV
To 2-carboxycyclooctanone of Preparation 86 (16.8 g) is added acetone (15 mL), acetic anhydride (20 mL) and sulfuric acid (0.8 mL, added dropwise) at 0° C. As soon as the sulfuric acid is added the solid dissolved and stirring continued for 1 hour at 0° C. and then the reaction is placed in the refrigerator (4° C.) overnight. The reaction is poured into NaHCO3 (500 mL) containing ice and then stirred for 1 hour at room temperature. The solid is collected on a filter and washed with water and air dried to yield 10.50 g of the product. Recrystallization from ether affords 8.9 g of the title product.

reactant | 2-carboxycyclooctanone | C(=O)(O)C1C(CCCCCC1)=O | C9H14O3
reactant | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | 2,2-Dimethyl-5,6,7,8,9,10-hexahydro-[4H]-cycloocta-1,3-dioxin-4-one | 10.50 g | CC1(OC2=C(C(O1)=O)CCCCCC2)C | C12H18O3
